US06610692B1
Step C: 2-Cyano-4-(2-dimethylaminoethenyl)-5-nitropyridine
A stirred solution of 2-cyano-4-methyl-5-nitropyridine (2.48 g, 15.2 mmol) in DMF (10 mL) and DMF-dimethylacetal (2.7 mL, 20 mmol) was heated to 90° C. for two h. The solution was cooled and evaporated in vacuo to give the title compound as a deep red solid:

reactant | 2-cyano-4-methyl-5-nitropyridine | 15.2 mmol, 2.48 g | C(#N)C1=NC=C(C(=C1)C)[N+](=O)[O-] | C7H5N3O2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Cyano-4-(2-dimethylaminoethenyl)-5-nitropyridine | C(#N)C1=NC=C(C(=C1)C=CN(C)C)[N+](=O)[O-] | C10H10N4O2
